US06211242B1
To a solution of 4-nitro-N-methyl-N-[2-(2-hydroxyethyl)phenyl]benzamide (686 mg) in N,N-dimethylformamide (12 ml) was added pyridinium dichromate (4.3 g) and the mixture was stirred at ambient temperature for 2 days. The mixture was diluted with water (80 ml) and the aqueous solution was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. Filtering and removal of solvents afforded a brown oil. To a solution of the brown oil in methanol (3 ml) and benzene (11 ml) was added trimethylsilyl diazomethane (1.7 ml) and the resulting solution was stirred at ambient temperature for 30 minutes. The mixture was evaporated in vacuo to give 4-nitro-N-methyl-N-(2-methoxycarbonylmethylphenyl)benzamide (517 mg) as a dark-green oil.

reactant | 4-nitro-N-methyl-N-[2-(2-hydroxyethyl)phenyl]benzamide | 686 mg | [N+](=O)([O-])C1=CC=C(C(=O)N(C2=C(C=CC=C2)CCO)C)C=C1 | C16H16N2O4
reactant | pyridinium dichromate | 4.3 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | benzene | 11 ml | C1=CC=CC=C1 | C6H6
reactant | trimethylsilyl diazomethane | 1.7 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | 4-nitro-N-methyl-N-(2-methoxycarbonylmethylphenyl)benzamide | 517 mg | [N+](=O)([O-])C1=CC=C(C(=O)N(C2=C(C=CC=C2)CC(=O)OC)C)C=C1 | C17H16N2O5
